US09302989B2
N-[4-(4-propionylpiperazin-1-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 278, substituting propionyl chloride for acetyl chloride and N-(4-(piperazin-1-yl)phenyl)isoindoline-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.14 (s, 1H), 7.38-7.44 (m, 2H), 7.28-7.39 (m, 4H), 6.87-6.90 (m, 2H), 4.74 (s, 4H), 3.54-3.60 (m, 4H), 2.95-3.10 (m, 4H), 2.36 (q, J=7.4 Hz, 2H), 1.03 (s, 1H), 1.00 (d, J=7.4 Hz, 2H); MS (ESI(+)) m/e 379 (M+H)+.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-(4-(piperazin-1-yl)phenyl)isoindoline-2-carboxamide | N1(CCNCC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C19H22N4O
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-[4-(4-propionylpiperazin-1-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | C(CC)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C22H26N4O2
